US08470891B2
Preparation of 5-methyl-5-benzyloxycarbonyl-1,3-dioxan-2-one (MTCOBn)
Benzyl 2,2-bis(methylol)propionate (BnMPA) (11.2 g, 0.05 mol) was dissolved in CH2Cl2 (150 mL) and pyridine (25 mL, 0.3 mol) and the solution was chilled to −75° C. with dry ice/acetone under N2 atmosphere. A solution of triphosgene (7.5 g, 25 mmol) in CH2Cl2 (150 mL) was added dropwise over 1 hours, and then the reaction mixture was allowed to warm to room temperature for 2 hours. The reaction was quenched by addition of saturated aqueous NH4Cl (75 mL), after which the organic layer was washed with 1 M aqueous HCl (3×100 mL), saturated aqueous NaHCO3 (1×100 mL), dried over MgSO4, filtered and evaporated. The resulting solid was recrystallized from ethyl acetate (15 mL) to give MTCOBn as a white solid (10.7 g, 86%). 1H NMR (400 MHz, CDCl3, 22° C.): delta 7.37 (m, 5H, PhH), 5.20 (s, 2H, —OCH2Ph), 4.69 (d, 2H, —CH2OCOO), 4.23 (d, 2H, —CH2OCOO), 1.31 (s, 3H, —CH3).

reactant | Benzyl 2,2-bis(methylol)propionate | 0.05 mol, 11.2 g | C(O)C(C(=O)OCC1=CC=CC=C1)(C)CO | C12H16O4
reactant | pyridine | 0.3 mol, 25 mL | N1=CC=CC=C1 | C5H5N
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | triphosgene | 25 mmol, 7.5 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 5-methyl-5-benzyloxycarbonyl-1,3-dioxan-2-one | 10.7 g, 86% | CC1(COC(OC1)=O)C(=O)OCC1=CC=CC=C1 | C13H14O5
